US06573279B1
(±)-6,7-Dimethoxy-2-[(3-piperidyl)carbonyl]-1,2,3,4-tetrahydroisoqinoline hydrochloride (3.19 g) was desalted by a customary method, and a conventional alkylation reaction was carried out using an acetonitrile solution (30 ml) of the residue, 2.85 g of N-(2-bromoethyl)phthalimide and 1.55 g of potassium carbonate to give 3.83 g of (±)-6,7-dimethoxy-2-{[3-(2-phthalimidoethyl)piperidyl]carbonyl}-1,2,3,4-tetrahydroisoquinoline. Then, 3.83 g of (±)-6,7-dimethoxy-2-{[3-(2-phthalimidoethyl)piperidyl]carbonyl}-1,2,3,4-tetrahydroisoquinoline was deprotected by a customary method using 45 ml of a methanolic solution containing 40% of methylamine to give 2.67 g of (±)-2-{[3-(2-aminoethyl)piperidyl]carbonyl}-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline as a yellow foamy substance.

reactant | (±)-6,7-dimethoxy-2-{[3-(2-phthalimidoethyl)piperidyl]carbonyl}-1,2,3,4-tetrahydroisoquinoline | 3.83 g | COC=1C=C2CCN(CC2=CC1OC)C(=O)N1CC(CCC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C27H31N3O5
reactant | methylamine | CN | CH5N
product | (±)-2-{[3-(2-aminoethyl)piperidyl]carbonyl}-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 2.67 g | NCCC1CN(CCC1)C(=O)N1CC2=CC(=C(C=C2CC1)OC)OC | C19H29N3O3
